* Z:\home\aalmela\scm\git\utn\eaiii\2020\7_Mezcladores\ltspice\Draft3.asc
J1 o i 0 2N3819
L1 N001 o 10e-3
C1 o N002 10µ
C2 i 0 10µ
V1 N001 0 12
V2 N002 0 AC 1u
C3 0 N002 10µ
.model NJF NJF
.model PJF PJF
.lib C:\users\aalmela\Mis Documentos\LTspiceXVII\lib\cmp\standard.jft
.ac dec 1000 1e6 20e6
.backanno
.end
